US06444679B1
2-[4-(3-Amino-phenyl)-1-(2-methyl-pentyl)-piperidin-4-yl]-pyrimidine-5-carboxylic Acid Diethylamide
To a stirring solution of 3-[4-(5-Diethylcarbamoyl-pyrimidin-2-yl)-1-(2-methyl-pentyl)-piperidin-4-yl]-benzoic acid (210 mg, 0.45 mmol) in 8 mL Toluene and 2 mL tert-butyl alcohol at room temperature was added triethylamine (0.066 mL, 0.48 mmol) and diphenylphosphoryl azide (0.07 mL, 0.45 mmol). The resulting mixture was heated at 120° C. for 20 hours, cooled to room temperature, washed with water, dried and concentrated. The resulting residue was taken up in EtOH/5N HCl (1:1) and stirred at room temperature for 22 hours. The resulting mixture was basified (pH=9) with NaOH and extracted with EtOAc (3×20 mL). The combined organic layers were dried and concentrated. Purification of the crude material was accomplished by flash chromatography with a solvent gradient of 5% and 10% MeOH/CH2Cl2 to yield 125 mg of the desired product. 1HNMR (400 MHz, CDCl3) δ 8.71 (s, 2H), 7.02 (t, 1H), 6.76 (d, 1H), 6.71 (s, 1H), 6.45 (d, 1H), 3.57-3.52 (comp, 4H), 3.28-3.26 (comp, 2H), 2.93-2.89 (comp, 2H), 2.71 (br s, 2H), 2.33 (br s, 2H), 2.15-1.96 (comp, 4H), 1.61 (br s, 1H), 1.38-1.17 (comp, 10H), 1.03-0.96 (comp, 1H), 0.86-0.83 (comp, 6H); MS (M+1) 438.6.

reactant | 3-[4-(5-Diethylcarbamoyl-pyrimidin-2-yl)-1-(2-methyl-pentyl)-piperidin-4-yl]-benzoic acid | 0.45 mmol, 210 mg | C(C)N(C(=O)C=1C=NC(=NC1)C1(CCN(CC1)CC(CCC)C)C=1C=C(C(=O)O)C=CC1)CC | C27H38N4O3
reactant | triethylamine | 0.48 mmol, 0.066 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 0.45 mmol, 0.07 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | Toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
solvent | tert-butyl alcohol | 2 mL | C(C)(C)(C)O | C4H10O
product | 2-[4-(3-Amino-phenyl)-1-(2-methyl-pentyl)-piperidin-4-yl]-pyrimidine-5-carboxylic Acid Diethylamide | 125 mg | C(C)N(C(=O)C=1C=NC(=NC1)C1(CCN(CC1)CC(CCC)C)C1=CC(=CC=C1)N)CC | C26H39N5O
